US06812237B2
A solution of (S)-2-t-butoxycarbonylamino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile (3.49 g, 8.8 mmol) in formic acid (22 mL) is stirred at room temp. for 6 h., after which time the formic acid is evaporated at 25° C. The residue is then dissolved in water (50 mL), basified with sat'd aqueous NaHCO3, and extracted with ethyl acetate (3×150 mL). The combined organic layers are then washed with water (50 mL), brine (50 mL), dried (MgSO4) and evaporated to yield (S)-2-amino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile, as a light yellow oil, which is utilized without further purification.

reactant | (S)-2-t-butoxycarbonylamino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile | 8.8 mmol, 3.49 g | C(C)(C)(C)OC(=O)N[C@@H](C#N)COCC1=CC(=CC=C1)C1=NN=NN1CCC#N | C19H23N7O3
solvent | formic acid | 22 mL | C(=O)O | CH2O2
product | (S)-2-amino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile | N[C@@H](C#N)COCC1=CC(=CC=C1)C1=NN=NN1CCC#N | C14H15N7O
